US06797823B1
N-(5-Bromo-2-pyridyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}urea
4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethyl-aniline (120 mg) was dissolved in chloroform (10 ml) and triethylamine (1 ml), and a solution of triphosgene (110 mg) in dichloromethane was then added to the solution. The mixture was stirred at room temperature for 30 min. Next, 2-amino-5-bromopyridine (192 mg) was added to the reaction solution, and the mixture was stirred at room temperature for 2 hr. Methanol was added to the reaction solution, and the solvent was removed by distillation under the reduced pressure. The residue was purified by chromatography on silica gel by development with chloroform/methanol (91/9). The solvent was removed by distillation, and a crystal was precipitated from a minor amount of methanol and a large amount of ether. The crystal was collected by filtration to give 80 mg (yield 41%) of the title compound.

reactant | 4-[(6,7-Dimethoxy-4-quinolyl)oxy]-2,3-dimethyl-aniline | 120 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C(=C(N)C=C1)C)C | C19H20N2O3
reactant | triphosgene | 110 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-amino-5-bromopyridine | 192 mg | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | Methanol | CO | CH4O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(5-Bromo-2-pyridyl)-N′-{4-[(6,7-dimethoxy-4-quinolyl)oxy]-2,3-dimethylphenyl}urea | 80 mg, yield 41% | BrC=1C=CC(=NC1)NC(=O)NC1=C(C(=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC)C)C | C25H23BrN4O4
